US07517910B2
3-[4-({4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)-2-fluorophenyl]propanoic acid
A mixture of ethyl 3-[4-({4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)-2-fluorophenyl]propanoate (0.73 g, 1.6 mmol), 1 N aqueous sodium hydroxide solution (3.0 mL), tetrahydrofuran (6 mL) and methanol (6 mL) was stirred at 60° C. for 1 hr. 1 N Hydrochloric acid (3.0 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained solid was recrystallized from ethyl acetate-hexane to give the title compound (0.61 g, yield 81%) as colorless crystals. melting point 152-153° C., 1H NMR (CDCl3) δ: 1.26 (9H, s), 1.31 (9H, s), 2.55-2.66 (2H, m), 2.83-2.95 (2H, m), 4.96 (2H, s), 5.48 (2H, s), 5.92 (1H, s), 6.56-6.67 (2H, m), 6.84-6.94 (2H, m), 7.00-7.14 (1H, m), 7.26-7.34 (2H, m).

reactant | ethyl 3-[4-({4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)-2-fluorophenyl]propanoate | 1.6 mmol, 0.73 g | C(C)(C)(C)C1=NN(C(=C1)C(C)(C)C)CC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C30H39FN2O3
reactant | sodium hydroxide | 1 N, 3.0 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1 N, 3.0 mL | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
product | 3-[4-({4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)-2-fluorophenyl]propanoic acid | 0.61 g, yield 81% | C(C)(C)(C)C1=NN(C(=C1)C(C)(C)C)CC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)O)F)C=C1 | C28H35FN2O3
